US09126993B2
quinuclidin-3-yl 3-(pyrimidin-5-yl)benzylcarbamate
Using general procedure E, quinuclidin-3-yl 3-bromobenzylcarbamate (203 mg, 0.600 mmol), pyrimidin-5-ylboronic acid (149 mg, 1.2 mmol) and [PdCl2(pddf)]CH2Cl2 gave the title compound as a viscous semi-solid (110 mg, 54%). 1H NMR (500 MHz, CDCl3) δ 9.20 (s, 1H), 8.94 (s, 2H), 7.51 (m, 3H), 7.40 (m, 1H), 5.62 (m, 1H), 4.81 (m, 1H), 4.50-4.40 (m, 2H), 3.30 (m, 1H), 2.97-2.65 (m, 5H), 2.12 (m, 1H), 1.92-1.82 (m, 1H), 1.79-1.69 (m, 1H), 1.65-1.56 (m, 1H), 1.50-1.42 (m, 1H) ppm. 13C NMR (125 MHz, CDCl3) δ 157.6, 156.2, 154.9, 140.1, 134.7, 134.1, 129.8, 128.2, 126.2, 70.9, 55.2, 47.2, 46.2, 44.8, 25.2, 23.8, 19.0 ppm. Purity: >95% LCMS (214 nm & 254 nm); retention time 1.22 min; (M+1) 339.

reactant | quinuclidin-3-yl 3-bromobenzylcarbamate | 0.600 mmol, 203 mg | BrC=1C=C(CNC(OC2CN3CCC2CC3)=O)C=CC1 | C15H19BrN2O2
reactant | pyrimidin-5-ylboronic acid | 1.2 mmol, 149 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
product | quinuclidin-3-yl 3-(pyrimidin-5-yl)benzylcarbamate | 110 mg, 54% | N1=CN=CC(=C1)C=1C=C(CNC(OC2CN3CCC2CC3)=O)C=CC1 | C19H22N4O2
